```spice
.include "45nm.sp" 

* Define parameters
.param VDD_VALUE=1.2
.param VSS_VALUE=0
.param R0_VALUE=10k
.param C0_VALUE=10p
.param AC_MAG=1

* DC Sources
VDD VDD 0 dc=VDD_VALUE
VSS VSS 0 dc=VSS_VALUE

* AC Source for AC simulation (optional, but good for PSRR or output impedance if VDD is modulated)
* For output impedance, we typically apply an AC current source at the output and measure voltage,
* or apply an AC voltage source at the output and measure current.
* For PSRR, we can modulate VDD. Let's add an AC component to VDD for PSRR.
* If we want to measure output impedance, we'd add an AC source at VOUT1.
* Let's add an AC source at VOUT1 for output impedance measurement.
VAC_OUT VOUT1 0 ac=AC_MAG

* Transistor M0
* D G S B
M0 VDD VDD VOUT1 VSS nmos w=1u l=90n

* Resistor R0
R0 VOUT1 VSS {R0_VALUE}

* Capacitor C0
C0 VOUT1 VSS {C0_VALUE}

.control
    * Set temperature for simulation
    set temp=25

    * DC Operating Point Analysis
    op
    print V(VOUT1) I(M0)

    * AC Analysis for Output Impedance
    * We applied an AC voltage source VAC_OUT at VOUT1.
    * The output impedance Zout = V(VOUT1) / I(VAC_OUT)
    ac dec 10 1 1G
    * Calculate and print output impedance magnitude and phase
    * Note: V(VOUT1) will be AC_MAG (1V) because of VAC_OUT.
    * So Zout = 1 / I(VAC_OUT)
    print V(VOUT1) I(VAC_OUT)
    let zout_mag = 1/abs(I(VAC_OUT))
    let zout_phase = -phase(I(VAC_OUT))
    plot zout_mag vs freq loglog
    plot zout_phase vs freq semilogx

    * AC Analysis for PSRR (if VDD had an AC component)
    * To measure PSRR, we would typically add an AC component to VDD and measure V(VOUT1).
    * Let's modify VDD to include an AC component for PSRR.
    * First, remove VAC_OUT for this specific simulation to avoid conflict.
    * Then, add an AC component to VDD.
    * For simplicity, let's assume we want to see the transfer function from VDD to VOUT1.
    * We'll comment out the VAC_OUT and add an AC component to VDD for this.
    * VDD VDD 0 dc=VDD_VALUE ac=AC_MAG
    * ac dec 10 1 1G
    * print V(VOUT1)
    * plot VDB(VOUT1) vs freq loglog

    * Transient Analysis (Example: if VDD steps)
    * VDD VDD 0 PULSE(0 VDD_VALUE 0 1n 1n 1u 2u)
    * tran 1n 5u
    * plot V(VOUT1)

quit
.endc

.end
```